US09023847B2
31. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (4-hydroxy-butyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using 4-amino-1-butanol instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 330 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.53 (1H, br. s.) 10.36 (1H, s) 8.10 (1H, t, J=5.66 Hz) 8.02 (1H, d, J=5.47 Hz) 7.77 (1H, d, J=5.27 Hz) 7.48 (1H, d, J=5.47 Hz) 7.31 (1H, dd, J=3.32, 2.54 Hz) 6.82 (1H, d, J=5.47 Hz) 6.43 (1H, dd, J=3.51, 1.76 Hz) 4.39 (1H, t, J=5.17 Hz) 3.36-3.43 (2H, m) 3.18-3.28 (2H, m) 1.53 (2H, dd, J=8.20, 6.83 Hz) 1.36-1.47 (2H, m)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | 4-amino-1-butanol | NCCCCO | C4H11NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (4-hydroxy-butyl)-amide | OCCCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C16H18N4O2S
